US05608131
A reaction was conducted under the same reaction conditions as in Example 1 except that acetylene and cyclopentadiene, which are both raw materials for norbornadiene, were used instead of norbornadiene to try a direct reaction of acetylene and cyclopentadiene. It was however impossible to obtain pentacyclo[5.4.21.7.13.6.010.13.012.14 ]-tetradeca-4,8-diene.

reactant | acetylene | C#C | C2H2
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | norbornadiene | C12=CC=C(CC1)C2 | C7H8
product | tetradeca-4,8-diene | CCCC=CCCC=CCCCCC | C14H26
